US05864039
4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2.0 g) as starting compound and 3,4-dichlorobenzaldehyde (0.97 g) were reacted and treated in the same manner as in Example 121 to give 1.42 g of 4-amino-5-chloro-N-((1-(6-(3,4-dichlorobenzylamino)hexyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN)C=C1Cl)OC | C20H33ClN4O2
reactant | 3,4-dichlorobenzaldehyde | 0.97 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | 4-amino-5-chloro-N-((1-(6-(3,4-dichlorobenzylamino)hexyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.42 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCNCC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C27H37Cl3N4O2
